US09326976B2
Intermediate 7. Methyl 1-[4-[[3-[(N-[(3R)-quinuclidin-3-yl]oxycarbonylanilino)-methyl]phenoxy]methyl]benzoyl]azetidine-3-carboxylate
A stirred solution of methyl 4-[[3-[(N-[(3R)-quinuclidin-3-yl]oxycarbonylanilino)methyl]phenoxy]methyl]benzoate (419 mg, 0.84 mmol) in THF (2 mL) and methanol (2 mL) was added with an aqueous solution of 1 N lithium hydroxide (1.7 mL, 1.68 mmol). The reaction was stirred at room temperature for 18 hours. The mixture was cooled to 0° C. and acidified by addition of 2N hydrochloric acid dropwise to pH≈2-3. The mixture was allowed to warm to room temperature and the solvent removed in vacuo and azeotroped with toluene to dryness. This crude material was dissolved in dimethylformamide (5 mL) and ⅔ of the solution was used in the next step. Methyl azetidine-3-carboxylate hydrochloride (104 mg, 0.69 mmol), 4-(dimethylamino)pyridine (38 mg, 0.32 mmol) followed by N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (182 mg, 0.95 mmol) were then added and the reaction mixture was stirred at room temperature for 18 hours. The solvent was removed in vacuo and the residue was partitioned between EtOAc (50 mL) and water. The organic phase was dried over Na2SO4, filtered and the solvent was removed in vacuo to yield the title compound as an oil that solidifies on standing (190 mg, 52% yield over two steps).

reactant | methyl 4-[[3-[(N-[(3R)-quinuclidin-3-yl]oxycarbonylanilino)methyl]phenoxy]methyl]benzoate | 0.84 mmol, 419 mg | N12C[C@@H](C(CC1)CC2)OC(=O)N(C2=CC=CC=C2)CC=2C=C(OCC1=CC=C(C(=O)OC)C=C1)C=CC2 | C30H32N2O5
reactant | lithium hydroxide | 1.68 mmol, 1 N, 1.7 mL | [OH-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | Methyl azetidine-3-carboxylate hydrochloride | 0.69 mmol, 104 mg | Cl.N1CC(C1)C(=O)OC
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.95 mmol, 182 mg | Cl.CN(CCCN=C=NCC)C
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
catalyst | 4-(dimethylamino)pyridine | 0.32 mmol, 38 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 1-[4-[[3-[(N-[(3R)-quinuclidin-3-yl]oxycarbonylanilino)-methyl]phenoxy]methyl]benzoyl]azetidine-3-carboxylate | 52% yield | N12C[C@@H](C(CC1)CC2)OC(=O)N(C2=CC=CC=C2)CC=2C=C(OCC1=CC=C(C(=O)N3CC(C3)C(=O)OC)C=C1)C=CC2 | C34H37N3O6
